US05393732
Trityl chloride (19.0 g) was added portionwise to a stirred solution of 3-methyl-1,2,4-triazole (5.6 g, commercial) and triethylamine (9.5 ml) in dichloromethane (200 ml). The mixture was diluted with dichloromethane (100 ml), washed with water (50 ml), dried over magnesium sulphate and evaporated under reduced pressure to give 1-trityl-3-methyl-1,2,4-triazole (19.0 g). Recrystallisation of a 2 g sample from toluene-hexane (1:1) gave pure material (1.32 g, m.p. 194°-196° C.). NMR (CDCl3): δ2.41(3H,s), 7.03-7.40(15H,m), 7.83(1H,s).

reactant | Trityl chloride | 19.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 3-methyl-1,2,4-triazole | 5.6 g | CC1=NNC=N1 | C3H5N3
reactant | triethylamine | 9.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-trityl-3-methyl-1,2,4-triazole | 19.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)C | C22H19N3
